US08497395B2
100 g (0.52 mol) of trifluoromethanesulfonamide ethanol, 108.6 g (0.54 mol) of 1-adamantanecarboxylic acid, 0.1 mol of para-toluenesulfonic acid and 500 g of toluene were added to a glass flask equipped with a thermometer and a condenser, followed by dehydration using a dean-stark dehydration apparatus under reflux. After 9 hours of reflux, about 9 ml of water was removed. The resulting reaction solution was dissolved in 500 g of ethyl acetate, and washing was conducted twice with a saturated sodium hydrogencarbonate solution, once with a 1N—HCl and once with a saturated saline solution in this order. Then, the organic phase was dried with sodium sulfate, and the solvent was distilled off under reduced pressure. The resultant was subjected to recrystallization in hexane, thereby obtaining 140 g of N-[2-(adamantan-1-ylcarbonyloxy)ethyl]trifluoromethanesulfonamide (yield: 75%, purity: 99%).

reactant | trifluoromethanesulfonamide ethanol | 0.52 mol, 100 g | C(C)O.FC(S(=O)(=O)N)(F)F
reactant | 1-adamantanecarboxylic acid | 0.54 mol, 108.6 g | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
reactant | para-toluenesulfonic acid | 0.1 mol | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 500 g | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 500 g | C(C)(=O)OCC | C4H8O2
product | N-[2-(adamantan-1-ylcarbonyloxy)ethyl]trifluoromethanesulfonamide | 140 g, yield: 75% | C12(CC3CC(CC(C1)C3)C2)C(=O)OCCNS(=O)(=O)C(F)(F)F | C14H20F3NO4S
